US06300511B1
An experiment was carried out as described in Example 2 using diethyl nitromalonate instead of diethyl malonate. Thus, 4.1 gm. (20 mmol.) diethylnitromalonate was treated with fluorine to give diethylfluoronitromalonate {δH 1.40 (6H, t, JHH 7.11, CH3), 4.47 (4H, q, JHH 7.12, CH2); δF 127.3 δC 13.7 (s, CH3), 65.2 (s, CH2), 106.3 (d, 1JCF 261.7, CF), 157.9 (d. 2JCF 25.2, CO).} in 76% yield. The conversion was 97%.

reactant | diethyl nitromalonate | [N+](=O)([O-])C(C(=O)OCC)C(=O)OCC | C7H11NO6
reactant | diethylnitromalonate | 20 mmol | C(C)OC(C(C(=O)OCC)[N+](=O)[O-])=O | C7H11NO6
reactant | fluorine | FF | F2
product | diethylfluoronitromalonate | 76% yield | C(C)OC(C(C(=O)OCC)([N+](=O)[O-])F)=O | C7H10FNO6
